Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Fentanyl
 
Attending: ___.
 
Chief Complaint:
R hip fracture
 
Major Surgical or Invasive Procedure:
R hip hemiarthroplasty

 
History of Present Illness:
___ year old ___ speaking woman presented to the ___ ED 
after a fall of unknown mech, and sustained R 
intertroch/basicervical fx.
 
Past Medical History:
atrial fibrillation
dementia
L hip fracture ___ ago)
Hyperlipidemia
coronary artery disease s/p cabg
history of colon CA
osteoporosis
vertigo
hypothyroidism.

 
Social History:
lives at ___
denies etoh, tobacco, ivdu
 
Pertinent Results:
___ 09:05AM BLOOD WBC-10.6 RBC-4.18* Hgb-10.8* Hct-34.7* 
MCV-83 MCH-25.9* MCHC-31.2 RDW-14.1 Plt ___
___ 09:05PM BLOOD Neuts-79.3* Lymphs-15.7* Monos-3.2 
Eos-1.5 Baso-0.4
___ 09:05AM BLOOD Plt ___
___ 09:05AM BLOOD ___ PTT-34.2 ___
___ 06:20AM BLOOD Glucose-140* UreaN-22* Creat-1.2* Na-140 
K-3.6 Cl-103 HCO3-30 AnGap-11
___ 04:40AM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.4*
 
Brief Hospital Course:
Patient was admitted from the ED for a right basicervical hip 
fracture.  She was taken to the operating room the following day 
for a R hip hemiarthroplasty.  She tolerated the procedure well 
without complication.  Postoperatively, her course was 
uncomplicated.  She was hemodynamically stable throughout. She 
remained afebrile.  Prior to discharge her foley was 
discontinued and she was able to void on her own.  She received 
a postoperative course of perioperative antibiotics and she 
remained afebrile throughout her course.  Her pain was initially 
controlled with IV pain medication.  Once she was able to 
tolerate PO intake she was transitioned to PO pain meds which 
worked with good effect.  Prior to discharge she was evaluated 
by physical therapy and their recommendation was for 
rehabilitation.  Therefore, on postoperative day 2 she was 
discharged to ___.  
 
Medications on Admission:
coumadin 2mg ___, 2.5mg ___, 3mg ___ tylenol; vit 
D; lexapro 10 qd; pepcid 40 qd; senna 17.2 qd; hctz 25 qd; zocor 
10 qd; lopressor 25 bid; synthroid ___ qd; memantine 10 bid.

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
3. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Trazodone 50 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)) as needed for Insomnia.  
5. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. Escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
12. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
13. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic BID (2 times a day).  
15. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. Memantine 5 mg Tablet Sig: Two (2) Tablet PO bid ().  
17. Warfarin 2 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
18. Warfarin 2.5 mg Tablet Sig: One (1) Tablet PO 
QTUES/WED/FRI/SUN (): ___.  
19. Warfarin 1 mg Tablet Sig: Three (3) Tablet PO QTHUR (every 
___.  
20. Ondansetron HCl (PF) 4 mg/2 mL Solution Sig: ___  Injection 
Q8H (every 8 hours) as needed for nausea/vomiting.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
R hip fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please take all medications as directed

You may weight bear as tolerated on you R leg.  This may cause 
pain, but it is normal postoperative pain and should be 
controlled with the pain medication prescribed.  Please call the 
office if your pain worsens or is not controlled with the 
prescribed medication.

Do not smoke or use any products containing nicotine while you 
recover from your surgery as these impair bony healing.

Keep your incision clean and dry.  You may shower 5 days after 
surgery (___).

Physical Therapy:
Out of bed w/ assist Activity: Ambulate twice daily if patient 
able
Pneumatic boots
Right lower extremity: Full weight bearing
Encourage turning, deep breathing and coughing qhour when awake.
Treatments Frequency:
Site: Incision 
Type: Surgical
Dressing: Gauze - dry
Comment: daily by RN; staples out 14 days after surgery
 
Followup Instructions:
___